US04725601
Molecular Sieves (16 g) was added to a solution of 2,3-diaminopyridine (8 g), 2-methylbenzaldehyde (8.81 g), and acetic acid (4.2 ml) in methanol (160 ml) and the mixture was stirred for 96 hours at room temperature. Sodium cyanoborohydride (4.61 g) was added portionwise to the mixture with stirring under ice-cooling over a period of 20 minutes. After being stirred for 3 hours, the mixture was made alkaline with aqueous sodium bicarbonate solution and filtered by suction. The filtrate was evaporated in vacuo, and to the residue was added water and then extracted with methylene chloride. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was recrystallized from a mixture of ethyl acetate and n-hexane to give 2-amino-3-(2-methylbenzylamino)pyridine (5.38 g).

reactant | 2,3-diaminopyridine | 8 g | NC1=NC=CC=C1N | C5H7N3
reactant | 2-methylbenzaldehyde | 8.81 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | Sodium cyanoborohydride | 4.61 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 160 ml | CO | CH4O
solvent | acetic acid | 4.2 ml | C(C)(=O)O | C2H4O2
product | 2-amino-3-(2-methylbenzylamino)pyridine | 5.38 g | NC1=NC=CC=C1NCC1=C(C=CC=C1)C | C13H15N3
